US06028195
1-[N-(2-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminocarbonyl]-4-(3,5-dirnethoxyphenyl)piperazine
Phenyl N-(2-methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl N-(2-methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)carbamate | COC1=C(C=C2C(=N1)CCC2)NC(OC2=CC=CC=C2)=O | C16H16N2O3
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[N-(2-Methoxy-6,7-dihydro-5H-cyclopenta[b]pyridin-3-yl)aminocarbonyl]-4-(3,5-dirnethoxyphenyl)piperazine | yield: 59% | COC1=C(C=C2C(=N1)CCC2)NC(=O)N2CCN(CC2)C2=CC(=CC(=C2)OC)OC | C22H28N4O4
